US04404214
0.46 g of 4-ethyl-2-pyridinecarboxylic acid, 0.5 g of N,N'-carbonyldiimidazole and 0.28 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and water, whereby 0.16 g of N-(5-tetrazolyl)-4-ethyl-2-pyridinecarboxamide is obtained.

reactant | 4-ethyl-2-pyridinecarboxylic acid | 0.46 g | C(C)C1=CC(=NC=C1)C(=O)O | C8H9NO2
reactant | 5-aminotetrazole | 0.28 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-ethyl-2-pyridinecarboxamide | 0.16 g | N1N=NN=C1NC(=O)C1=NC=CC(=C1)CC | C9H10N6O
